US07230020B2
Reaction of 4-chloro-2-methyl-benzothiazol-5-ylamine (50 mg, 0.25 mmol) in THF (1.5 mL) with 4-biphenylcarbonyl chloride (50 μL, 0.30 mmol) in presence of triethylamine (42 μL, 0.30 mmol) according to method A gave biphenyl-4-carboxylic acid (4-chloro-2-methyl-benzothiazol-5-yl)-amide (79 mg, 0.21 mmol, 84% yield) as a pale pink powder after crystallisation in hexane/DCM.

reactant | 4-chloro-2-methyl-benzothiazol-5-ylamine | 0.25 mmol, 50 mg | ClC1=C(C=CC2=C1N=C(S2)C)N | C8H7ClN2S
reactant | 4-biphenylcarbonyl chloride | 0.30 mmol, 50 μL | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | triethylamine | 0.30 mmol, 42 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | biphenyl-4-carboxylic acid (4-chloro-2-methyl-benzothiazol-5-yl)-amide | 0.21 mmol, 79 mg, 84% yield | ClC1=C(C=CC2=C1N=C(S2)C)NC(=O)C2=CC=C(C=C2)C2=CC=CC=C2 | C21H15ClN2OS
